Unit Test for DCOP for DLTCH and DFF Digital Devices
***************************************************************
* For the default (unspecified) "DIGINITSTATE", the outputs 
* should be the same as for DIGINITSTATE=3
*    1) Q="high" and Qbar="low"
*    2) IC1=FALSE or IC2=TRUE override the DIGINITSTATE for Q
*       or Qbar, respectively
***************************************************************

* Analysis Commands
.DC V4 0 3 3 V3 0 3 3 V2 0 3 3 V1 0 3 3

* Sources, used to toggle inputs at gates
V1 in_pre 0 3V
V2 in_clr 0 3V
V3 in_enableclk 0 3V
V4 in_data 0 3V

* Output
.print DC v(in_pre) v(in_clr) v(in_enableclk) v(in_data) 
+ v(out1_q) v(out1_qbar) v(out2_q) v(out2_qbar) v(out3_q) v(out3_qbar) 
+ v(out4_q) v(out4_qbar) v(out5_q) v(out5_qbar) v(out6_q) v(out6_qbar) 

* Devices
UDLTCH1 DLTCH dig_pn 0 in_pre in_clr in_enableclk in_data out1_q out1_qbar DMOD
Rq1 out1_q 0 100K
Rqbar1 out1_qbar 0 100K

UDLTCH2 DLTCH dig_pn 0 in_pre in_clr in_enableclk in_data out2_q out2_qbar DMOD IC1=FALSE
Rq2 out2_q 0 100K
Rqbar2 out2_qbar 0 100K

UDLTCH3 DLTCH dig_pn 0 in_pre in_clr in_enableclk in_data out3_q out3_qbar DMOD IC2=TRUE
Rq3 out3_q 0 100K
Rqbar3 out3_qbar 0 100K

UDFF4 DFF dig_pn 0 in_pre in_clr in_enableclk in_data out4_q out4_qbar DMOD
Rq4 out4_q 0 100K
Rqbar4 out4_qbar 0 100K

UDFF5 DFF dig_pn 0 in_pre in_clr in_enableclk in_data out5_q out5_qbar DMOD IC1=FALSE
Rq5 out5_q 0 100K
Rqbar5 out5_qbar 0 100K

UDFF6 DFF dig_pn 0 in_pre in_clr in_enableclk in_data out6_q out6_qbar DMOD IC2=TRUE
Rq6 out6_q 0 100K
Rqbar6 out6_qbar 0 100K

* Set digital default parameters:
.param R1HI=5 R1LO=200 R0HI=200 R0LO=5 RIN=1000 R1=100
.param SW=5.e-9  CAPOUT=1.e-12  CAPIN=1.e-12
.param V_LO=0 V_HI=3

* Digital power and reference node
V5 dig_pn 0 3V 

.model DMOD DIG ( CLO=CAPOUT  CHI=CAPOUT
+ S0RLO=R0LO  S0RHI=R0HI  S0TSW=SW
+ S0VLO=-1  S0VHI=1.8
+ S1RLO=R1LO  S1RHI=R1HI  S1TSW=SW
+ S1VLO=1  S1VHI=3
+ RLOAD=RIN   CLOAD=CAPIN 
+ DELAY=20ns )

.end
